US06514981B1
6-Trifluoromethyl-2-oxindole (O-21)
Dimethylsulfoxide (330 mL) was added to 7.9 g of sodium hydride followed by, dropwise, 43.6 g of diethyloxalate. The mixture was heated to 100° C. for 1 hour and cooled to room temperature. 2-Nitro-4-trifluromethyltoluene (31.3 g) was added, the reaction stirred for 30 minutes at room temperature and then heated to 100° C. for 1 hour. The reaction was cooled and poured into a mixture of saturated aqueous ammonium chloride, ethyl acetate and hexane. The organic layer was washed with saturated ammonium chloride, water and brine, dried, and concentrated to give dimethyl

reactant | sodium hydride | 7.9 g | [H-].[Na+]
reactant | diethyloxalate | 43.6 g | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | 2-Nitro-4-trifluromethyltoluene | 31.3 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)C | C8H6F3NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Dimethylsulfoxide | 330 mL | CS(=O)C | C2H6OS
product | 6-Trifluoromethyl-2-oxindole | FC(C1=CC=C2CC(NC2=C1)=O)(F)F | C9H6F3NO
